US06815555B2
4-Methoxycarbonyl-2,6diisopropylphenol
Carbon tetrachloride (28 mL) was added dropwise to a mixture of 2,6-diisopropylphenol (37.5 mL), copper powder (2 g), methanol (150 mL), and 40% aqueous solution of sodium hydroxide (150 mL), at 40-50° C. The reaction temperature was warmed to about 60° C., and the resulting mixture was allowed to stir for 4 hours. The mixture was poured into water and extracted with toluene (3×). The combined organics were washed (brine), dried over sodium sulfate and concentrated. Chromatography with ethyl ether:hexanes as the eluent (gradient 5/95 to 8/92) provided material that precipitated as a white solid upon addition of hexane. The white solid was collected by filtration to provide the title compound (1.06 g); 1H-NMR(CDCl3) δ=1.29 (d, 12H, CH(CH3)2), 3.16 (m, 2H, CH (CH3)2), 3.87 (S, 3H, OCH3), 5.22 (S, 1H, OH), 7.78 (S, 2H, ArH).

reactant | Carbon tetrachloride | 28 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | 2,6-diisopropylphenol | 37.5 mL | C(C)(C)C1=C(C(=CC=C1)C(C)C)O | C12H18O
reactant | methanol | 150 mL | CO | CH4O
reactant | sodium hydroxide | 150 mL | [OH-].[Na+]
catalyst | copper | 2 g | [Cu] | Cu
solvent | water | O | H2O
product | 4-Methoxycarbonyl-2,6diisopropylphenol | 1.06 g | COC(=O)C1=CC(=C(C(=C1)C(C)C)O)C(C)C | C14H20O3
